US08859580B2
[(2R,6S)-10-Hydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-(2-methyl-furan-3-yl)-methanone
Boron tribromide (2 mL) is added to a solution of [(2R,6S)-10-methoxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-(2-methyl-furan-3-yl)-methanone (0.22 g) in dichloromethane (10 mL). The resulting solution is stirred at ambient temperature for 2 h. Then, water is added and the mixture is stirred for another 10 min. The organic phase is separated and the aqueous phase is extracted with dichloromethane. The combined organic phases are washed with brine and dried (Na2SO4). The solvent is evaporated to give the title compound.

reactant | Boron tribromide | 2 mL | B(Br)(Br)Br | BBr3
reactant | [(2R,6S)-10-methoxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-(2-methyl-furan-3-yl)-methanone | 0.22 g | COC1=CC=CC2=C1C[C@H]1N(CC[C@@]2(C1(C)C)C)C(=O)C1=C(OC=C1)C | C22H27NO3
reactant | water | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [(2R,6S)-10-Hydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-(2-methyl-furan-3-yl)-methanone | OC1=CC=CC2=C1C[C@H]1N(CC[C@@]2(C1(C)C)C)C(=O)C1=C(OC=C1)C | C21H25NO3
